Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
CT and ultrasound-guided core needle biopsy of the liver 
(___)

attach
 
Pertinent Results:
ADMISSION LABS:
___ 06:15AM BLOOD WBC-5.5 RBC-4.71 Hgb-13.8 Hct-41.6 MCV-88 
MCH-29.3 MCHC-33.2 RDW-11.7 RDWSD-37.4 Plt ___
___ 06:15AM BLOOD Neuts-77.5* Lymphs-16.1* Monos-5.8 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-4.30 AbsLymp-0.89* 
AbsMono-0.32 AbsEos-0.01* AbsBaso-0.01
___ 06:15AM BLOOD Glucose-123* UreaN-19 Creat-1.4* Na-137 
K-4.4 Cl-103 HCO3-21* AnGap-13
___ 06:15AM BLOOD Albumin-4.0 Calcium-9.1 Phos-4.0 Mg-2.1
___ 06:15AM BLOOD ALT-10 AST-12 AlkPhos-65 TotBili-0.4
___ 06:15AM BLOOD CEA-59.0* CA ___

DISCHARGE LABS:
___ 08:14AM BLOOD WBC-5.0 RBC-4.57* Hgb-13.1* Hct-41.1 
MCV-90 MCH-28.7 MCHC-31.9* RDW-11.6 RDWSD-37.6 Plt ___
___ 12:40PM BLOOD Glucose-112* UreaN-20 Creat-1.6* Na-135 
K-3.9 Cl-95* HCO3-28 AnGap-12

PATHOLOGY:
LIVER, BIOPSY FOR TUMOR (___): pending at the time of 
discharge

IMAGING:
MRI abdomen (___):
IMPRESSION: 
1. There is a large left renal mass measuring up to 8.7 cm, with 
extension 
into the left adrenal gland and contiguous with conglomerate 
retroperitoneal lymphadenopathy, which compresses and narrows 
the infrarenal IVC, though without thrombus. There is moderate 
left hydronephrosis. 
2. A 4.3 cm minimally peripherally enhancing mass in the right 
hepatic lobe is indeterminate, though likely represents 
metastatic disease. 
3. A 1.9 cm lesion in the upper pole of the right kidney is 
consistent with a ___ IIF lesion. 
4. A paraesophageal T2 hyperintense rim enhancing cystic 
structure is 
nonspecific, and may represent a bronchogenic cyst. 

CTA torso from ___:

CT Angiography Chest With Contrast
FINDINGS: Pulmonary arteries: Unremarkable. No pulmonary emboli.
Aorta: Unremarkable. No thoracic aortic aneurysm. No thoracic
aortic dissection. Lungs: Right upper
lobe pulmonary nodule measuring 4 mm (series 11, image 125).
Right middle lobe calcified granuloma.
Right middle lobe pulmonary nodule measuring 5 mm (series 5,
image 87). Left upper lobe pulmonary
nodule measuring 4 mm (series 5, image 52). Left lower lobe
pulmonary nodule measuring 4 mm (series
5, image 84). Pleural space: No pleural effusion. No
pneumothorax. Heart: No cardiomegaly. Small
pericardial effusion. Lymph nodes: A paraesophageal lymph node
measures 2 cm in short axis. No
abnormally enlarged hilar lymph nodes. Bones/joints:
Unremarkable. No acute fracture. Soft tissues:
Unremarkable. 
IMPRESSION: 1. No evidence of thoracic aortic dissection. 
2. Pulmonary nodules measuring a maximum of 5 mm. Follow-up
should be guided by oncology (see report of CT
abdomen pelvis). 3. Paraesophageal lymphadenopathy. 

CT Angiography Abdomen and Pelvis With Contrast
FINDINGS: Aorta: The abdominal aorta is normal in course and
caliber. No
abdominal aortic dissection. Celiac trunk and mesenteric
arteries: The celiac artery, superior
mesenteric artery, and inferior mesenteric artery are patent
without significant stenosis. Renal
arteries: Solitary right renal artery is patent without
significant stenosis. There are 2 left renal
arteries, both are patent without significant stenosis. Right
iliac arteries: The right common
iliac, external iliac, and internal iliac arteries are patent
without significant stenosis. Left
iliac arteries: The left common iliac, external iliac, and
internal iliac arteries are patent
without significant stenosis. Other veins: The left renal vein 
is
either surrounded by or directly
invaded by tumor. Liver: Hypodense mass in the right liver
measuring approximately 3.5 cm.
Gallbladder and bile ducts: The gallbladder is unremarkable.
Pancreas: The pancreas is unremarkable.
Spleen: The spleen is unremarkable. Adrenals: The right adrenal
gland is unremarkable. There is a
mass of the left adrenal gland measuring approximately 2 cm.
Kidneys and ureters: Hypodense right
renal lesion is too small to accurately characterize. A left
renal mass at the renal hilum with
calcifications measures 7.5 x 7 cm. The left renal mass
demonstrates contiguous spread to the
retroperitoneum and the left adrenal gland. There is
hypoenhancement of the left renal cortex. There
is marked left hydronephrosis. The right ureter is unremarkable.
Stomach and bowel: The stomach is
unremarkable. There is mild sigmoid colon diverticulosis. The
small bowel is unremarkable. No bowel
obstruction. Appendix: The appendix is normal. Intraperitoneal
space: Unremarkable. No free air. No
significant fluid collection.
Retroperitoneal space: There is thickening of
Gerota's fascia. There are soft tissue density nodules in the
anterior para renal space. Lymph
nodes: There is extensive para-aortic lymphadenopathy.
Conglomerate lymph node mass measures
approximately 5 x 3.1 x 7 cm. Bladder: The urinary bladder is
unremarkable. Reproductive:
Unremarkable as visualized. Bones/joints: No acute fracture. No
dislocation. Soft tissues: There is a small fat-containing
umbilical hernia. 
IMPRESSION: 
1. Left renal neoplasm measuring approximately
7.5 cm. There is extensive retroperitoneal tumor, metastatic
lymphadenopathy and metastases in the anterior para renal space. 

2. Liver mass. Metastasis suspected. 
3. Marked left hydronephrosis, due
to mass effect from large hilar mass. 
4. Left renal vein either surrounded by or directly invaded by
tumor. 

DISCHARGE EXAM:
VITALS: ___ 0756 Temp: 98.2 PO BP: 156/100 HR: 84 RR: 18 O2 
sat: 96% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
___ 0850 BP: 135/81 HR: 78 
GENERAL: Alert, NAD
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB
ABD/GI: Soft, ND, NTTP, normoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, moves all limbs 
PSYCH: pleasant, appropriate affect
 
Brief Hospital Course:
SUMMARY:
___ yo M PMHx HTN who p/w acute on chronic left flank pain, found 
to have large left renal mass with severe left hydronephrosis, 
___, and imaging with concern for metastatic disease (to liver), 
now s/p biopsy of liver lesion. 

HOSPITAL COURSE BY PROBLEM:

# Left renal mass
Concerning for malignancy based on imaging findings.  
Complicated
by hydronephrosis and ___. Imaging revealed a liver lesion 
consistent with a metastasis which was biopsied. CEA was 
elevated at 59. CA ___ was
low/normal. His left flank pain was controlled with lidocaine 
patches, Tylenol, and oxycodone (used sparingly). 
[ ] F/u results of liver biopsy pathology

# ___ vs. CKD (unclear baseline)
# Left hydronephrosis
FeUrea and FeNa were consistent with pre-renal etiology likely 
due to poor PO intake in the setting of flank pain. Cr improved 
with IV fluids and encouraging PO intake. Baseline Cr appears to 
be 1.4-1.6.   

# HTN, poorly controlled
His home amlodipine was continued. In addition, HCTZ 25 mg daily 
and labetalol 200 mg BID were started with improved control.

# Access to care
Pt primarily resides in ___ and is just here for the 
holidays. He will need to establish care with a PCP in ___. 
He is also unsure of his insurance status.

TRANSITIONAL ISSUES:
[ ] F/u results of liver biopsy pathology
[ ] Patient to establish PCP in ___

>30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Labetalol 200 mg PO BID 
RX *labetalol 200 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
4.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % Apply 1 patch to painful area once a day Disp 
#*30 Patch Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tab by mouth every four (4) hours Disp #*18 
Tablet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*10 Tablet Refills:*0 
7.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Renal mass
Liver masses
Hypertension
Acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital for flank pain and you were 
found to have a left kidney mass. You were also found to have 
spots in your liver that are concerning for spread of the kidney 
mass to the liver. You had a biopsy of one of the liver lesions 
completed on ___. The pathology from that biopsy is still 
pending at discharge.
Your blood pressure was also quite elevated and you were treated 
with new medications to control your blood pressure. You should 
continue to take those at home.
Your kidney function also fluctuated while you were in the 
hospital but responded well to fluid. You should make sure that 
you stay very hydrated to protect your kidneys. You should also 
not take NSAID medications (like ibuprofen - Motrin and Tylenol) 
because those can injure the kidney further.
The most important thing will be to establish a primary care 
doctor in ___ so the records from this hospital stay and the 
pathology results can be sent to a doctor there.
Best wishes for your continued health.
Take care,
Your ___ Care Team
 
Followup Instructions:
___